US06495581B1
Lithium hydroxide monohydrate (73.6 mg) was added to a solution of methyl E-4-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyrate (430 mg) in tetrahydrofuran (6 ml)-water (4 ml)-methanol (4 ml) and stirred at room temperature for 2 hours. 1N hydrochloric acid (1.8 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-4-[4-[5-methyl-2(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyric acid (366 mg, yield 88%) as colorless crystals. m.p. 142-143° C.

reactant | Lithium hydroxide monohydrate | 73.6 mg | O.[OH-].[Li+]
reactant | methyl E-4-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyrate | 430 mg | CC1=C(N=C(O1)C=1SC=CC1)COC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C27H26N2O5S
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 1.8 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | E-4-[4-[5-methyl-2(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyric acid | 366 mg, yield 88% | CC1=C(N=C(O1)C=1SC=CC1)COC1=CC=C(CO\N=C(/CCC(=O)O)\C2=CC=CC=C2)C=C1 | C26H24N2O5S
